US05292452
A solution of 4.9 g of trans-4-[2-[2-(3,4-difluorophenyl)-5-pyridyl]vinyl]cyclohexanecarbonitrile in 120 ml of toluene is hydrogenated with 0.5 g of 10 percent palladium/carbon at room temperature and normal pressure. Filtration and evaporation of the filtrate yields trans-4-[2-[2-(3,4-difluorophenyl)-5-pyridyl]ethyl]cyclohexanecarbonitrile.

reactant | trans-4-[2-[2-(3,4-difluorophenyl)-5-pyridyl]vinyl]cyclohexanecarbonitrile | 4.9 g | FC=1C=C(C=CC1F)C1=NC=C(C=C1)C=C[C@@H]1CC[C@H](CC1)C#N | C20H18F2N2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
product | trans-4-[2-[2-(3,4-difluorophenyl)-5-pyridyl]ethyl]cyclohexanecarbonitrile | FC=1C=C(C=CC1F)C1=NC=C(C=C1)CC[C@@H]1CC[C@H](CC1)C#N | C20H20F2N2
